US09216980B2
N-(2-Aminoethyl)-3-(4-piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxamide
A solution of 3-(4-piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid methyl ester (152 mg, 0.380 mmol) in ethylenediamine (8.0 mL) was heated to 80° C. for 16 h in a sealed tube. The mixture was allowed to cool and concentrated in vacuo. The residue was dissolved in DMSO and purified by preparative HPLC (2-60% MeCN/water modified with 0.1% ammonium hydroxide) to afford a light brown solid (45.4 mg, 28%). 1H NMR (DMSO-D6, 400 MHz): 9.19 (d, J=2.1 Hz, 1H), 8.99 (s, 1H), 8.96 (d, J=2.2 Hz, 1H), 8.92 (s, 1H), 8.74 (m, 1H), 7.80 (d, J=8.1 Hz, 2H), 7.45 (d, J=8.1 Hz, 2H), 3.50 (s, 2H), 3.41-3.33 (m, 2H), 2.76 (t, J=6.4 Hz, 2H), 2.38 (m, 4H), 1.52 (m, 4H), 1.41 (m, 2H). LCMS (Method D): RT=6.45 min, M+H+=429.

reactant | 3-(4-piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid methyl ester | 0.380 mmol, 152 mg | COC(=O)C1=CC=2C3=C(NC2C=N1)N=CC(=C3)C3=CC=C(C=C3)CN3CCCCC3 | C24H24N4O2
solvent | ethylenediamine | 8.0 mL | C(CN)N | C2H8N2
product | N-(2-Aminoethyl)-3-(4-piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxamide | 45.4 mg, 28% | NCCNC(=O)C1=CC=2C3=C(NC2C=N1)N=CC(=C3)C3=CC=C(C=C3)CN3CCCCC3 | C25H28N6O
